US03994897
50 parts of benzalacetone are added slowly and in portions, in the course of 20 minutes at from 30° to 35° C, to a mixture of 900 parts by volume of sodium hypochlorite solution (containing 149 parts of sodium hypochlorite), 150 parts by volume of water and 1 part of potassium bromide. After a further reaction time of 1.5 hours at 40° C, the chloroform which has formed is separated off, the aqueous phase is acidified and the organic phase which forms is combined with the chloroform phase. The aqueous solution is extracted by shaking with a further 100 parts by volume of chloroform and the chloroform is distilled from the combined organic phases. 49.5 parts (98.5% of theory) of cinnamic acid melting at 122° C are obtained. ##SPC5##

reactant | benzalacetone | C(C1=CC=CC=C1)=CC(C)=O | C10H10O
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | water | O | H2O
reactant | potassium bromide | [Br-].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | cinnamic acid | 98.5% | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
